US07642361B2
3-(4-tert-Butyl-phenyl)-4-cyano-5-methylsulfanyl-thiophene-2-carboxylic acid
Add NaOH 1M (1 ml) to a suspension of 3-(4-tert-butyl-phenyl)-4-cyano-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester (general preparation 28, general preparation 29, general example E-1) (0.128 mmol) in ethanol (1 ml) and stir 24 h. Add 6 N HCl until pH approx. 1 and white solid precipitates. Filter the solid to provide the title compound: MS (ES+, m/e): 332 (M+1).

reactant | NaOH | 1M, 1 ml | [OH-].[Na+]
reactant | 3-(4-tert-butyl-phenyl)-4-cyano-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester | 0.128 mmol | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C(C)(C)C)C#N)SC | C19H21NO2S2
reactant | HCl | 6 N | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 3-(4-tert-Butyl-phenyl)-4-cyano-5-methylsulfanyl-thiophene-2-carboxylic acid | C(C)(C)(C)C1=CC=C(C=C1)C1=C(SC(=C1C#N)SC)C(=O)O | C17H17NO2S2
